US04764458
In 440 ml of acetonitrile was dissolved 146 g of ethyl p-aminobenzoylacetate, and 70 ml of acetic anhydride was added dropwise to the solution at 40° C. After reacting at 40° C. for 1 hour, 48.8 g of 80% hydrazine hydrate was added thereto dropwise. After heat generation subsided, the reaction was further continued at a temperature between 55° C. and 60° C. for 1 hour. The reaction mixture was cooled to 5° C., and the precipitated crystals were filtered to yield 148 g of 3-(4-acetylaminophenyl)-2-pyrazolin-5-one as gray crystals having a melting point of 254° to 258° C.

reactant | ethyl p-aminobenzoylacetate | 146 g | NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H13NO3
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrazine hydrate | 48.8 g | O.NN
solvent | acetonitrile | 440 ml | C(C)#N | C2H3N
product | 3-(4-acetylaminophenyl)-2-pyrazolin-5-one | 148 g | C(C)(=O)NC1=CC=C(C=C1)C1=NNC(C1)=O | C11H11N3O2
